US04473579
A mixture of 26.8 g. of 2,4-dimethylbenzaldehyde, 32.4 g. of 2,4-dichloroaniline, 0.20 g. of p-toluenesulfonic acid, and 150 ml of toluene is stirred under reflux using a Dean-Stark moisture trap. Evaporation of the mixture affords a solid which is recrystallized from ethanol to yield N-(2,4-dimethylbenzylidene)-2,4-dichloroaniline, mp 102°-106°.

reactant | 2,4-dimethylbenzaldehyde | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | 2,4-dichloroaniline | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-dimethylbenzylidene)-2,4-dichloroaniline | CC1=C(C=NC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)C | C15H13Cl2N
